US04654347
N-[3-[3-(2-Furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-N-methylcyclopropanecarboxamide
To a 3.85 g sample of N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]cyclopropanecarboxamide in 40 ml of dimethylformamide is added 0.384 g of 60% sodium hydride in oil. The mixture is stirred at room temperature under argon for one hour and then 0.65 ml of methyl iodide is added. After stirring overnight at room temperature, several drops of acetic acid are added, the mixture poured onto ice-water and extracted with dichloromethane. The extracts are washed with water, dried over sodium sulfate and the solvent removed under reduced pressure. The residue is dissolved in dichloromethane, filtered through a short pad of hydrous magnesium silicate and the pad washed with dichloromethane. The filtrate is concentrated and hexane added. Cooling gives the desired product as crystals, mp 207°-209° C.

reactant | N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]cyclopropanecarboxamide | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)NC(=O)C2CC2 | C21H16N4O3
reactant | sodium hydride | 0.384 g | [H-].[Na+]
reactant | methyl iodide | 0.65 ml | CI | CH3I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
product | N-[3-[3-(2-Furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-N-methylcyclopropanecarboxamide | O1C(=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(=O)C2CC2)C | C22H18N4O3
